************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: Week4Layout2
* View Name:     schematic
* Netlisted on:  Oct 14 10:47:22 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM p5vonly=0
+ phires=0

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    Week4Layout2
* View Name:    schematic
************************************************************************

.SUBCKT Week4Layout2 in out
*.PININFO in:I out:O
MTN0 out net7 gnd! gnd! nfet m=1 l=180n w=2.21u nf=1 par=1 rf=0 gcon=1 
+ mSwitch=0 bentgate=0 psp=0 idg=0 gns=0
MTN1 net7 in gnd! gnd! nfet m=1 l=180n w=600n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 out net7 vdd! vdd! pfet m=1 l=180n w=6.63u nf=1 par=1 rf=0 gcon=1 
+ mSwitch=0 bentgate=0 psp=0 idg=0 gns=0
MTP1 net7 in vdd! vdd! pfet m=1 l=180n w=1.8u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
.ENDS

